US06787558B2
a) (S)-2-(Tetrahydro-pyran-2-yloxymethyl)-pyrrolidine-1-carboxylic acid benzyl ester
A solution of L-prolinol (1.00 g, 4.94 mmol) in N,N-dimethylformamide (5 mL) was cooled to 0° C. and treated with sodium hydrogencarbonate (831 mg, 9.87 mmol) and benzyl chloroformate (843 mg, 4.94 mmol). After removal of the ice bath the reaction mixture was stirred 1 h at r.t. then poured onto ice and extracted with ethyl acetate. The organic layer was washed with brine, dried (MgSO4) and evaporated. The residue was taken up in dichloromethane (5 mL), treated with 3,4-dihydro-2H-pyran (1.25 g, 14.8 mmol) and pyridinium toluene-4-sulfonate (1.37 g, 5.43 mmol) and stirred for 48 h at r.t., then evaporated. The residue was partitioned between ethyl acetate and water, the organic layer was washed with brine, dried (MgSO4), and evaporated. Chromatography (SiO2, hexane/ethyl acetate 3:1) yielded the title compound (451 mg, 29%). Colourless liquid, ISP-MS: m/e=320.4 ([M+H]+).

reactant | L-prolinol | 4.94 mmol, 1.00 g | N1[C@H](CO)CCC1 | C5H11NO
reactant | sodium hydrogencarbonate | 9.87 mmol, 831 mg | C(O)([O-])=O.[Na+]
reactant | benzyl chloroformate | 4.94 mmol, 843 mg | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 3,4-dihydro-2H-pyran | 14.8 mmol, 1.25 g | O1CCCC=C1 | C5H8O
reactant | pyridinium toluene-4-sulfonate | 5.43 mmol, 1.37 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | (S)-2-(Tetrahydro-pyran-2-yloxymethyl)-pyrrolidine-1-carboxylic acid benzyl ester | 451 mg, 29% | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)COC1OCCCC1 | C18H25NO4
